* Created by KLayout
*** My special header ***

* cell full_adder
* pin VDD
* pin VMID
* pin VSS
* pin a
* pin b
* pin cin
* pin cout
* pin sum
.SUBCKT full_adder VDD VMID VSS a b cin cout sum
* cell instance $1 r0 *1 -96.05,-98.25
X$1 \$2 VDD a b VMID \$1 VSS half_adder
* cell instance $2 r0 *1 600.9,-98.25
X$2 \$3 VDD \$1 cin VMID sum VSS half_adder
* cell instance $3 r0 *1 1312,-98.25
X$3 VDD \$13 VMID \$2 \$3 VSS nany
* cell instance $10 r0 *1 1468.45,-98.25
X$10 VDD \$13 cout VSS inverter
.ENDS full_adder

* cell half_adder
* pin carry
* pin VDD
* pin a
* pin b
* pin VMID
* pin sum
* pin VSS
.SUBCKT half_adder carry VDD a b VMID sum VSS
* cell instance $1 r0 *1 496,200
X$1 VDD carry VMID \$8 \$9 VSS nany
* cell instance $2 r0 *1 508,0
X$2 VDD sum VMID \$3 carry VSS nany
* cell instance $3 r0 *1 184,0
X$3 VDD \$11 VMID \$7 carry VSS nany
* cell instance $4 r0 *1 352,0
X$4 VDD \$11 \$3 VSS inverter
* cell instance $5 r0 *1 160,200
X$5 VDD \$7 VMID a b VSS nany
* cell instance $6 r0 *1 40,200
X$6 VDD a \$8 VSS inverter
* cell instance $7 r0 *1 328,200
X$7 VDD \$9 VMID b \$7 VSS nany
.ENDS half_adder

* cell nany
* pin VDD
* pin vout
* pin VMID
* pin a
* pin b
* pin VSS
.SUBCKT nany VDD vout VMID a b VSS
* device instance $1 r0 *1 50,88 PMOS
XM$1 \$7 a vout VDD PMOS L=1u W=14u AS=39.2p AD=39.2p PS=33.6u PD=33.6u
* device instance $2 r0 *1 65,88 PMOS
XM$2 \$10 b vout VDD PMOS L=1u W=14u AS=39.2p AD=39.2p PS=33.6u PD=33.6u
* device instance $3 r0 *1 20,88 PMOS
XM$3 \$31 a VDD VDD PMOS L=1u W=34u AS=95.2p AD=95.2p PS=73.6u PD=73.6u
* device instance $4 r0 *1 35,88 PMOS
XM$4 \$3 b \$31 VDD PMOS L=1u W=34u AS=95.2p AD=95.2p PS=73.6u PD=73.6u
* device instance $5 r0 *1 50,15 NMOS
XM$5 \$7 b VMID VSS NMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $6 r0 *1 65,15 NMOS
XM$6 \$10 a VMID VSS NMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $7 r0 *1 20,15 NMOS
XM$7 \$32 a \$4 VSS NMOS L=1u W=11u AS=30.8p AD=30.8p PS=27.6u PD=27.6u
* device instance $8 r0 *1 35,15 NMOS
XM$8 VSS b \$32 VSS NMOS L=1u W=11u AS=30.8p AD=30.8p PS=27.6u PD=27.6u
* device instance $9 r0 *1 108,42 F_RR
XR$9 \$4 vout VDD F_RR R=5.71428571429 L=16u W=2.8u A=44.8p P=37.6u m=1
* device instance $10 r0 *1 108,72 F_RR
XR$10 \$3 vout VDD F_RR R=5.71428571429 L=16u W=2.8u A=44.8p P=37.6u m=1
.ENDS nany

* cell inverter
* pin VDD
* pin vin
* pin vout
* pin VSS
.SUBCKT inverter VDD vin vout VSS
* device instance $1 r0 *1 13.2,44 PMOS
XM$1 \$4 vin VDD VDD PMOS L=1u W=13.5u AS=37.8p AD=37.8p PS=32.6u PD=32.6u
* device instance $2 r0 *1 13.2,14 NMOS
XM$2 \$5 vin VSS VSS NMOS L=1u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 58,32 F_RR
XR$3 \$5 vout VDD F_RR R=7.14285714286 L=20u W=2.8u A=56p P=45.6u m=1
* device instance $4 r0 *1 58,45 F_RR
XR$4 \$4 vout VDD F_RR R=7.14285714286 L=20u W=2.8u A=56p P=45.6u m=1
.ENDS inverter
